US07115541B2
In a 300-ml reactormade of 316 stainless steel, 36 g (427.7 mmol) of cyclohexane, 175.3 mg (0.855 mmol) of N-acetoxyphthalimide, 31.98 mg (0.128 mmol) of cobalt(II) acetate tetrahydrate, 45.72 mg (0.128 mmol) of acetylacetonatocobalt(II), and 44 g of acetic acid were placed, the reactor was tightly sealed, and the inside pressure was increased to 5 MPa (gauge pressure) using a gaseous mixture containing 50% of oxygen gas and 50% of nitrogen gas. The temperature of the reaction mixture was elevated on an oil bath and was held at 125° C. Gas absorption initiated immediately after the temperature of the mixture reached 125° C., and 60 minutes layer, the reaction mixture was cooled to terminate the reaction. To the resulting reaction mixture, 120 g of acetic acid was added to dissolve all the solid matters, and the resulting solution was subjected to analysis. As a result, adipic acid was obtained with a selectivity of 60.4% and a conversion from cyclohexane of 18.2%. In this procedure, glutaric acid (selectivity: 7.7%), succinic acid (selectivity: 2.9%), cyclohexanone (selectivity: 17.5%), cyclohexanol (selectivity: 10.3%) and cyclohexyl acetate (selectivity: 1.2%) were by-produced.

reactant | cyclohexane | 427.7 mmol, 36 g | C1CCCCC1 | C6H12
reactant | N-acetoxyphthalimide | 0.855 mmol, 175.3 mg | C(C)(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO4
reactant | oxygen | O=O | O2
reactant | acetic acid | 120 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 44 g | C(C)(=O)O | C2H4O2
catalyst | cobalt(II) acetate tetrahydrate | 0.128 mmol, 31.98 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
